US07932245B2
1,3-dimethyl-5-methylenecyclohexane
The title compound was prepared as described in Example 45A substituting 3,5-dimethylcyclohexanone, commercially available from Aldrich, for 2-decalone.

reactant | 3,5-dimethylcyclohexanone | CC1CC(CC(C1)C)=O | C8H14O
reactant | 2-decalone | C1CCC2CC(=O)CCC2C1 | C10H16O
product | 1,3-dimethyl-5-methylenecyclohexane | CC1CC(CC(C1)=C)C | C9H16
